US03976695
As outlined in Example 6, 2-fluoroveratraldehyde is treated with boron tribromide to give 2-fluoroprotocatechualdehyde which is dibenzylated to 3,4-dibenzyloxy-2-fluorobenzaldehyde.

reactant | 2-fluoroveratraldehyde | FC1=C(C=O)C=CC(=C1OC)OC | C9H9FO3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 2-fluoroprotocatechualdehyde | FC1=C(C=O)C=CC(=C1O)O | C7H5FO3
